US05840917
3-Thiophenecarboxylic acid ethyl ester (1.56 g) was dissolved in acetonitrile (30 ml), and sulfuryl chloride (5.36 g) was added. The mixture was stirred at room temperature for 4 hours, and 10% aqueous sodium thiosulfate (100 ml) was added. The mixture was stirred for 15 minutes and extracted with diethyl ether. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2,5-dichloro-3-thiophenecarboxylic acid ethyl ester (2.3 g). 2,5-Dichloro-3-thiophenecarboxylic acid ethyl ester (2.25 g) was dissolved in a mixture of ethanol (10 ml) and tetrahydrofuran (10 ml), and 1N aqueous sodium hydroxide (20 ml) was added. The mixture was stirred at room temperature for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2,5-dichloro-3-thiophenecarboxylic acid (1.89 g) as crystals.

reactant | 2,5-Dichloro-3-thiophenecarboxylic acid ethyl ester | 2.25 g | C(C)OC(=O)C1=C(SC(=C1)Cl)Cl | C7H6Cl2O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 2,5-dichloro-3-thiophenecarboxylic acid | 1.89 g | ClC=1SC(=CC1C(=O)O)Cl | C5H2Cl2O2S
